US06777418B2
A mixture of 0.7 g (1.58 mmol) of methyl-4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid in 40 ml of MeOH and 20 ml of 1 N LiOH was heated to reflux temperature. After 1 h, the reaction was cooled to room temperature and the MeOH removed under reduced pressure. The aqueous solution was acidified with 2 N HCl, extracted with ethyl acetate, washed with brine, dried over sodium sulfate and adsorbed onto silica gel. The product was purified by flash chromatography (gradient elution: 10-30% ethyl acetate/hexane with 0.2% acetic acid) and by recrystallization (ethyl acetate/hexane) to afford 100 mg (15%) of 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid (mp=233-233.5) 133.

reactant | methyl-4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid | 1.58 mmol, 0.7 g | CC1=C(C(=O)O)C=CC(=C1)\C=C\C1=CC=2C(CC(C(C2C=C1CN1N=CC=C1)(C)C)=O)(C)C | C28H30N2O3
solvent | MeOH | 40 ml | CO | CH4O
solvent | LiOH | 1 N, 20 ml | [Li+].[OH-]
product | 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid | 100 mg, 15% | CC1(C=2C=C(C(=CC2C(CC1=O)(C)C)/C=C/C1=CC=C(C(=O)O)C=C1)CN1N=CC=C1)C | C27H28N2O3
